US05449787
Cis-3-amino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)-pyrrolidine hydrochloride
To a suspension of 2.20 g (6.14 mmol) of cis-3-t-butoxycarbonylamino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine in 22 ml of ethanol was added 11 ml of ethanol saturated with hydrogen chloride at room temperature, and then the mixture was stirred for 3 hours at room temperature. After completion of the reaction, solvent was distilled off and resultant residue was crystallized with addition of dioxane to give 1.81 g (quantitative) of aimed compound. m.p. 177°-180° C.

reactant | cis-3-t-butoxycarbonylamino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine | 6.14 mmol, 2.20 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C(=O)C1=NN(C2=CC=CC=C12)C | C19H26N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 22 ml | C(C)O | C2H6O
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | Cis-3-amino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)-pyrrolidine hydrochloride | Cl.N[C@@H]1CN(C[C@@H]1C)C(=O)C1=NN(C2=CC=CC=C12)C | InChI=1S/C14H18N4O.ClH/c1-9-7-18(8-11(9)15)14(19)13-10-5-3-4-6-12(10)17(2)16-13;/h3-6,9,11H,7-8,15H2,1-2H3;1H/t9-,11+;/m0./s1
